US08686152B2
To a solution of solution of 4-(4-carbamoylbenzyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (1.38 mmol; 0.5 g) in DMF (5 mL) was added cyclohexylmethylamine (1.18 mmol; 0.154 mL), N,N-diisopropyl-N-ethylamine (2.81 mmol; 0.50 mL) and HBTU (1.38 mmol; 0.51 g), and the resulting mixture was stirred at room temperature overnight. The mixture was purified via reverse phase HPLC. The desired fractions were combined and lyophilized. The residue was dissolved in tetrahydrofuran (2 mL) and a 4N HCl in 1,4-dioxane solution (3 mL), and the resulting mixture was stirred for 4 hours at room temperature and evaporated. The residue was triturated with diethyl ether and dried under vacuum to yield 4-(4-carbamoylbenzyl)-piperidine-4-carboxylic acid cyclohexylmethyl amide as a hydrochloride salt. MS (ESI) m/z 358.40 [M+H]+.

reactant | 4-(4-carbamoylbenzyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 1.38 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC1=CC=C(C=C1)C(N)=O | C19H26N2O5
reactant | cyclohexylmethylamine | 1.18 mmol, 0.154 mL | C1(CCCCC1)CN | C7H15N
reactant | N,N-diisopropyl-N-ethylamine | 2.81 mmol, 0.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 1.38 mmol, 0.51 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-carbamoylbenzyl)-piperidine-4-carboxylic acid cyclohexylmethyl amide | C1(CCCCC1)CNC(=O)C1(CCNCC1)CC1=CC=C(C=C1)C(N)=O | C21H31N3O2
